US07977352B2
D.3 N-(4-(4-Ethylpiperazin-1-yl)phenyl)-5-(2-methoxypyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-8-amine
To a reaction vial (40 mL), is added 5-chloro-N-(4-(4-ethylpiperazin-1-yl)phenyl)-[1,2,4]triazolo[1,5-a]pyridin-8-amine (110 mg, 0.3 mmol), potassium carbonate (207 mg, 1.5 mmol, 5 eq.), 2-methoxypyridin-4-ylboronic acid (70 mg, 0.45 mmol, 1.5 eq), PddppfCl2 (44 mg, 20%), dioxane (4.0 mL) and water (1.0 mL). The reaction mixture is degassed and filled with argon. The reaction is heated at 105-110° C. for 20 h. After cooling to rt, ethyl acetate (10 mL) is added to each reaction vial. The organic phase is filtered through a pat of celite and then is evaporated to give a residue that is purified by silica gel column chromatography (1-3% 2N NH3 in MeOH/DCM) to give the title compound as a light yellow solid (90 mg, yield, 69.8%). 1H NMR (300 MHz, DMSO-d6): δ 8.75 (s, 1H), 8.56 (s, 1H), 8.26 (d, J=6.0 Hz, 1H), 7.60 (d, J=4.8 Hz), 7.58 (s, 1H), 7.46 (d, J=8.4 Hz, 1H), 7.25 (d, J=9.0 Hz, 2H), 6.96 (d, J=9.0 Hz, 2H), 6.93 (d, J=8.4 Hz, 1H), 3.91 (s, 3H), 3.12 (m, 4H), 2.50 (m, 4H), 2.36 (q, J=6.9, 2H), 1.04 (t, J=6.9 Hz, 3H); LCMS-ESI (m/z): calcd for C24H27N7O, 429; [M+H]+ found, 430.

reactant | 5-chloro-N-(4-(4-ethylpiperazin-1-yl)phenyl)-[1,2,4]triazolo[1,5-a]pyridin-8-amine | 0.3 mmol, 110 mg | ClC1=CC=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCN(CC2)CC | C18H21ClN6
reactant | potassium carbonate | 1.5 mmol, 207 mg, 5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxypyridin-4-ylboronic acid | 0.45 mmol, 70 mg, 1.5 eq | COC1=NC=CC(=C1)B(O)O | C6H8BNO3
reactant | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.0 mL | O | H2O
product | N-(4-(4-Ethylpiperazin-1-yl)phenyl)-5-(2-methoxypyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-8-amine | 90 mg, 69.8% | C(C)N1CCN(CC1)C1=CC=C(C=C1)NC=1C=2N(C(=CC1)C1=CC(=NC=C1)OC)N=CN2 | C24H27N7O
